*** adc***

VDD 1 0 DC 8V
V1 106 0 DC 1.80V
V2 107 0 DC 1.80V
V3 108 0 DC 1.80V
V4 109 0 DC 1.80V
V5 110 0 DC 1.80V
V6 111 0 DC 1.80V
V7 116 0 DC 1.80V
Vref 121 0 DC 8V



MN1 45 55 0 0 N1  w=10u l=1u
MN2 0 57 42 0 N1  w=10u l=1u
MN3 43 61 0 0 N1  w=10u l=1u
MN4 42 56 0 0 N1  w=10u l=1u
MN5 0 45 39 0 N1  w=10u l=1u
MN6 0 43 37 0 N1  w=10u l=1u
MN7 0 42 36 0 N1  w=10u l=1u
MN8 0 57 43 0 N1  w=10u l=1u
MN9 42 54 0 0 N1  w=10u l=1u
MN10 0 54 45 0 N1  w=10u l=1u
MN11 43 65 0 0 N1  w=10u l=1u
MN12 0 65 42 0 N1  w=10u l=1u
MN13 45 59 0 0 N1  w=10u l=1u
MN14 0 59 43 0 N1  w=10u l=1u
MN15 0 65 45 0 N1  w=10u l=1u
MN16 0 82 54 0 N1  w=10u l=1u
MN17 0 83 55 0 N1  w=10u l=1u
MN18 0 84 56 0 N1  w=10u l=1u
MN19 0 85 57 0 N1  w=10u l=1u
MN20 0 86 59 0 N1  w=10u l=1u
MN21 0 87 61 0 N1  w=10u l=1u
MN22 0 88 65 0 N1  w=10u l=1u
MN23 99 108 68 0 N1  w=10u l=1u
MN24 100 116 69 0 N1  w=10u l=1u
MN25 101 111 70 0 N1  w=10u l=1u
MN26 102 109 71 0 N1  w=10u l=1u
MN27 103 107 72 0 N1  w=10u l=1u
MN28 104 110 73 0 N1  w=10u l=1u
MN29 105 106 74 0 N1  w=10u l=1u
MN30 0 82 99 0 N1  w=10u l=1u
MN31 0 83 100 0 N1  w=10u l=1u
MN32 0 84 101 0 N1  w=10u l=1u
MN33 0 85 102 0 N1  w=10u l=1u
MN34 0 86 103 0 N1  w=10u l=1u
MN35 0 87 104 0 N1  w=10u l=1u
MN36 0 88 105 0 N1  w=10u l=1u
MN37 99 113 75 0 N1  w=10u l=1u
MN38 100 119 76 0 N1  w=10u l=1u
MN39 101 117 77 0 N1  w=10u l=1u
MN40 102 114 78 0 N1  w=10u l=1u
MN41 103 115 79 0 N1  w=10u l=1u
MN42 104 118 80 0 N1  w=10u l=1u
MN43 105 112 81 0 N1  w=10u l=1u
MN44 0 82 82 0 N1  w=10u l=1u
MN45 0 83 83 0 N1  w=10u l=1u
MN46 0 84 84 0 N1  w=10u l=1u
MN47 0 85 85 0 N1  w=10u l=1u
MN48 0 86 86 0 N1  w=10u l=1u
MN49 0 87 87 0 N1  w=10u l=1u
MN50 0 88 88 0 N1  w=10u l=1u


MP1 1 42 36 1 P1  w=10u l=1u
MP2 1 43 37 1 P1  w=10u l=1u
MP3 1 45 39 1 P1  w=10u l=1u
MP4 44 56 42 1 P1  w=10u l=1u
MP5 46 61 43 1 P1  w=10u l=1u
MP6 47 57 44 1 P1  w=10u l=1u
MP7 48 55 45 1 P1  w=10u l=1u
MP8 49 57 46 1 P1  w=10u l=1u
MP9 50 54 47 1 P1  w=10u l=1u
MP10 51 54 48 1 P1 w=10u l=1u
MP11 52 65 49 1 P1  w=10u l=1u
MP12 1 65 50 1 P1  w=10u l=1u
MP13 53 59 51 1 P1  w=10u l=1u
MP14 1 59 52 1 P1  w=10u l=1u
MP15 1 65 53 1 P1  w=10u l=1u
MP16 1 68 54 1 P1  w=10u l=1u
MP17 1 69 55 1 P1  w=10u l=1u
MP18 1 70 56 1 P1  w=10u l=1u
MP19 1 71 57 1 P1  w=10u l=1u
MP20 1 72 59 1 P1  w=10u l=1u
MP21 1 73 61 1 P1  w=10u l=1u
MP22 1 74 65 1 P1  w=10u l=1u
MP23 1 75 68 1 P1  w=10u l=1u
MP24 1 76 69 1 P1  w=10u l=1u
MP25 1 77 70 1 P1  w=10u l=1u
MP26 1 78 71 1 P1  w=10u l=1u
MP27 1 79 72 1 P1  w=10u l=1u
MP28 1 80 73 1 P1  w=10u l=1u
MP29 1 81 74 1 P1  w=10u l=1u
MP30 1 75 75 1 P1  w=10u l=1u
MP31 1 76 76 1 P1  w=10u l=1u
MP32 1 77 77 1 P1  w=10u l=1u
MP33 1 78 78 1 P1  w=10u l=1u
MP34 1 79 79 1 P1  w=10u l=1u
MP35 1 80 80 1 P1  w=10u l=1u
MP36 1 81 81 1 P1  w=10u l=1u
MP37 1 82 82 1 P1  w=10u l=1u
MP38 1 83 83 1 P1  w=10u l=1u
MP39 1 84 84 1 P1  w=10u l=1u
MP40 1 85 85 1 P1  w=10u l=1u
MP41 1 86 86 1 P1  w=10u l=1u
MP42 1 87 87 1 P1  w=10u l=1u
MP43 1 88 88 1 P1  w=10u l=1u



R1 112 121 1000
R2 119 113 1000
R3 118 114 1000
R4 113 115 1000
R5 0 117 1000
R6 114 119 1 00
R7 115 112 1000
R8 117 118 1000


.MODEL N1 NMOS LEVEL=54 version=4.7            
.MODEL P1 PMOS LEVEL=54 version=4.7


.tran 0.1 320
.control
run
plot  V(39) V(37) V(56)
.endc
.END
